US07968563B2
A solution of 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline (U.S. Pat. No. 5,175,296 Example 1 Part C, 25.64 g, 113.8 mmol) in tetrahydrofuran (THF) (450 mL) was cooled to −78° C. Butyllithium (45.5 mL of a 2.5 M solution in hexanes) was added dropwise over a period of ten minutes, and the resulting solution was stirred for ten minutes. DMF (20.1 mL, 274.4 mmol) was added, and the reaction was allowed to warm to room temperature and stirred for one hour. The THF was then removed under reduced pressure, and the residue was dissolved in ethyl acetate (400 mL). The resulting solution was washed with brine (400 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting sequentially with 0.5% and 1% methanol in dichloromethane) to provide 10.5 g of 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-carbaldehyde as a light brown solid.

reactant | 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | CC(CN1C=NC=2C=NC=3C=CC=CC3C21)C | C14H15N3
reactant | Butyllithium | C(CCC)[Li]
reactant | DMF | 274.4 mmol, 20.1 mL | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 450 mL | O1CCCC1 | C4H8O
product | 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-carbaldehyde | 10.5 g | CC(CN1C(=NC=2C=NC=3C=CC=CC3C21)C=O)C | C15H15N3O
